US04728735
(b) Preparation of 2-i-Propylamino-5-methoxythiophenol
To 5-methoxy-2,2-dimethylbenzothiazolidine (14.6 gm; 75 mmoles) in 50 ml dimethoxyethane and 5 ml isopropanol was added sodium borohydride (4.0 gm; 0.1 mole). The reaction mixture was stirred at room temperature for 1 hour. The mixture was then poured over 5 N acetic acid, extracted with methylene chloride, washed with brine, dried (Na2SO4) and concentrated in vacuo. The residue was recrystallized from hexane to yield the title compound, m.p. 68°-69° C. in nearly quantitative yield.

reactant | 5-methoxy-2,2-dimethylbenzothiazolidine | 75 mmoles, 14.6 gm | COC=1C=CC2=C(NC(S2)(C)C)C1 | C10H13NOS
reactant | sodium borohydride | 0.1 mole, 4.0 gm | [BH4-].[Na+]
reactant | acetic acid | 5 N | C(C)(=O)O | C2H4O2
solvent | dimethoxyethane | 50 ml | C(OC)COC | C4H10O2
solvent | isopropanol | 5 ml | C(C)(C)O | C3H8O
product | 2-i-Propylamino-5-methoxythiophenol | quantitative yield | C(C)(C)NC1=C(C=C(C=C1)OC)S | C10H15NOS
